US03950333
Reacting ethylenediamine with 2-chloromethylthiazole by the procedure of Example 34 gives N-(2-thiazolylmethyl)ethylenediamine. Reacting this intermediate with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[2-(2-thiazolylmethylamino)ethyl]guanidine. Treatment with hydrobromic acid gives the hydrobromide salt.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-chloromethylthiazole | ClCC=1SC=CN1 | C4H4ClNS
product | N-(2-thiazolylmethyl)ethylenediamine | S1C(=NC=C1)CNCCN | C6H11N3S
